US05234935
Dimethyl 1,2,6-trimethyl-4-(4-trifluoromethylphenyl)-1,4-dihydro-pyridine-3,5-dicarboxylate
A mixture of 5.22 g (0.03 mol) of 4-trifluoromethylbenzaldehyde, 7.04 g (0.06 mol) of methyl acetoacetate and 2.07 g (0.03 mol) of methylamine hydrochloride in 20 ml of pyridine is stirred under reflux for 5 hours. After removing the pyridine by distillation, the mixture is partitioned between water and methylene chloride, and the organic phase is washed with water, dried over sodium sulphate and evaporated. The residue is recrystallized from methanol.

reactant | 4-trifluoromethylbenzaldehyde | 0.03 mol, 5.22 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | methyl acetoacetate | 0.06 mol, 7.04 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | methylamine hydrochloride | 0.03 mol, 2.07 g | Cl.CN
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Dimethyl 1,2,6-trimethyl-4-(4-trifluoromethylphenyl)-1,4-dihydro-pyridine-3,5-dicarboxylate | CN1C(=C(C(C(=C1C)C(=O)OC)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC)C | C19H20F3NO4
